US20010027196A1
N-[2-(2-Amino-5-cyano-6-furan-2-yl-pyrimidin-4-ylamino)-ethyl]-4-chloro-benzenesulfonamide
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, N-(2-aminoethyl)-p-chlorobenzenesulfonamide hydrochloride and DBU in DME. ES-MS m/e (%): 419 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | N-(2-aminoethyl)-p-chlorobenzenesulfonamide hydrochloride | Cl.NCCNS(=O)(=O)C1=CC=C(C=C1)Cl
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | N-[2-(2-Amino-5-cyano-6-furan-2-yl-pyrimidin-4-ylamino)-ethyl]-4-chloro-benzenesulfonamide | NC1=NC(=C(C(=N1)NCCNS(=O)(=O)C1=CC=C(C=C1)Cl)C#N)C=1OC=CC1 | C17H15ClN6O3S
